US04654363
Step C: Preparation of 4,6-Dichloro-7-iodoindan-1-ol
4,6-Dichloro-7-iodoindan-1-one (14.71 g., 45 mmoles) was suspended and partially dissolved in ethanol (140 ml). Sodium borohydride (1.70 g., 45 mmoles) was added and the mixture was stirred for 50 minutes. Aqueous sodium hydroxide 20% (w/v) (40 ml) was added and stirred for 10 minutes. The reaction mixture was poured into 700 mL of ice-water with vigorous stirring. The crystals were collected, washed with water, sucked dry and dried in a vacuum oven at 50° C. overnight to give 14.08 g of the title compound, mp 95°-100° C. Recrystallization from acetonitrile gave material with mp 99°-102° C.

reactant | 4,6-Dichloro-7-iodoindan-1-one | 45 mmoles, 14.71 g | ClC1=C2CCC(C2=C(C(=C1)Cl)I)=O | C9H5Cl2IO
reactant | Sodium borohydride | 45 mmoles, 1.70 g | [BH4-].[Na+]
reactant | sodium hydroxide | 40 ml | [OH-].[Na+]
solvent | ethanol | 140 ml | C(C)O | C2H6O
product | 4,6-Dichloro-7-iodoindan-1-ol | 14.08 g | ClC1=C2CCC(C2=C(C(=C1)Cl)I)O | C9H7Cl2IO
